US03987053
EXAMPLE 17: 1-Methyl-2-nitro-5-imidazolecarboxaldehyde-2-hydroxyethylhydrazone
A solution of 0.300 g. of 2-hydroxyethylhydrazine and 0.4 g. of 1-methyl-2-nitro-5-imidazolecarboxaldehyde in 20 ml. of methanol is allowed to stand for two days. The solid which precipitates is recovered on the filter and washed with water. Yield: 0.245 g., m.p. 138°-140° C.

reactant | 2-hydroxyethylhydrazine | OCCNN | C2H8N2O
reactant | 1-methyl-2-nitro-5-imidazolecarboxaldehyde | CN1C(=NC=C1C=O)[N+](=O)[O-] | C5H5N3O3
solvent | methanol | CO | CH4O
product | 1-Methyl-2-nitro-5-imidazolecarboxaldehyde-2-hydroxyethylhydrazone | OCCNN=CC1=CN=C(N1C)[N+](=O)[O-] | C7H11N5O3
